US07132425B2
A mixture of 2-amino-5-cyanopyrazine (500.0 mg, 4.163 mmol), ethylenediamine (3.0 mL, 44.88 mmol), and phosphorous pentasulfide (185.1 mg, 0.416 mmol) was placed in a sealed tube and heated at 120° C. for 3 h. At this time, the reaction was poured onto ice. The resulting reaction mixture was diluted with chloroform (50 mL), water (10 mL), and a saturated aqueous sodium chloride solution (20 mL). The layers were separated. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 5-(4,5-dihydro-1H-imidazol-2-yl)-pyrazin-2-ylamine (327.0 mg, 48.1%) as a white solid which was used without further purification.

reactant | 2-amino-5-cyanopyrazine | 4.163 mmol, 500.0 mg | NC1=NC=C(N=C1)C#N | C5H4N4
reactant | ethylenediamine | 44.88 mmol, 3.0 mL | C(CN)N | C2H8N2
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 10 mL | O | H2O
product | 5-(4,5-dihydro-1H-imidazol-2-yl)-pyrazin-2-ylamine | 327.0 mg, 48.1% | N1C(=NCC1)C=1N=CC(=NC1)N | C7H9N5
